US07799779B2
b) 1 -Bromo-3-(3-methoxvpropoxy)benzene
A mixture of 5.0 g of 3-bromophenol, 7.99 g of potassium carbonate and 3.77 g of 1-chloro-3-methoxypropane in 90 ml of dimethylformamide is stirred at 100° C. for 4.5 hours. The reaction mixture is clarified by filtration and the filtrate is evaporated in vacuo. The residue is taken up in 100 ml of tert-butyl methyl ether, and the organic phase is washed once each wit 50 ml of 1N NaOH, 50 ml of water and 50 ml of brine. The organic phase is dried with sodium sulphate, filtered and evaporated. 7.08 g of the title compound are obtained as an orange oil. Rt=4.91.

reactant | 3-bromophenol | 5.0 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | potassium carbonate | 7.99 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-chloro-3-methoxypropane | 3.77 g | ClCCCOC | C4H9ClO
solvent | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
product | 1 -Bromo-3-(3-methoxvpropoxy)benzene | 7.08 g | BrC1=CC(=CC=C1)OCCCOC | C10H13BrO2
